US05116862
n-Butyllithium (1.7 ml, 1.6M solution in hexane) was added dropwise to a stirred solution of 1-(hex-5-ynyl)-4-n-propyl-2,6,7-trioxabicyclo[2.2.2]octane (0.65 g) in dry tetrahydrofuran (25 ml) at 0°, under a current of nitrogen. The mixture was stirred at 0° for 15 minutes and then methyl iodide (0.18 ml) was added. The reaction mixture was stirred at 0° for 1 hour and then evaporated in vacuo. The residue was partitioned between diethyl ether and water. The ethereal extracts were dried over anhydrous magnesium sulphate and the solvent was removed in vacuo. The residue was purified by chromatography on alumina, eluting with 1:10 dichloromethane:hexane, saturated with ammonia. 1-(Hept-5-ynyl)-4-n-propyl-2,6,7-trioxabicyclo[2.2.2]octane was obtained as a colourless crystalline solid (0.23 g) {contained 15% of 1-(hex-5-ynyl)-4-n-propyl-2,6,7-trioxabicyclo[2.2.2]octane}.

reactant | n-Butyllithium | 1.6M, 1.7 ml | C(CCC)[Li]
reactant | 1-(hex-5-ynyl)-4-n-propyl-2,6,7-trioxabicyclo[2.2.2]octane | 0.65 g | C(CCCC#C)C12OCC(CO1)(CO2)CCC | C14H22O3
reactant | methyl iodide | 0.18 ml | CI | CH3I
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 1-(Hept-5-ynyl)-4-n-propyl-2,6,7-trioxabicyclo[2.2.2]octane | C(CCCC#CC)C12OCC(CO1)(CO2)CCC | C15H24O3
